US08877782B2
N-Cyclopropylmethyl-6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinamide
As described for example 137, 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.25 mmol) was converted, using cyclopropanemethylamine instead of methylamine, to the title compound (96 mg, 87%) which was obtained as an off white solid. MS: m/e=436.0 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C18H12F4N2O4
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
product | N-Cyclopropylmethyl-6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinamide | 96 mg, 87% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H17F4N3O3
